US08487108B2
The solution of NaN3 (47 mg, 0.72 mmol) and (S)-2-(tert-butoxycarbonylamino)-3-((R)-oxepan-3-yl)propyl 4-methylbenzenesulfonate (103 mmol, 0.24 mmol) in anhydrous DMF was heated to 80° C. for 2 h. After cooling to rt, the reaction was diluted with EtOAc and washed with H2O, brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by chromatography on silica gel to give tert-butyl (S)-1-azido-3-((S)-oxepan-3-yl)propan-2-ylcarbamate. MS ESI +ve m/z 321 (M+Na).

reactant | NaN3 | 0.72 mmol, 47 mg | [N-]=[N+]=[N-].[Na+]
reactant | (S)-2-(tert-butoxycarbonylamino)-3-((R)-oxepan-3-yl)propyl 4-methylbenzenesulfonate | 103 mmol | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H](C[C@@H]1COCCCC1)NC(=O)OC(C)(C)C | C21H33NO6S
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (S)-1-azido-3-((S)-oxepan-3-yl)propan-2-ylcarbamate | N(=[N+]=[N-])C[C@H](C[C@H]1COCCCC1)NC(OC(C)(C)C)=O | C14H26N4O3
